US08026368B2
5-(N′-{1-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]-ethyl}hydrazinocarbonyl)-thiophene-2-carboxylic acid isopropylamide
1-(5-Hydroxy-3-methyl-1-(3,4-dimethylphenyl)-1H-pyrazol-4-yl)-ethanone (30 mg, 0.123 mmol, synthesized in accordance with patent document 25), 5-hydrazinocarbonyl-thiophene-2-carboxylic acid 2-propylamide prepared in Reference Synthetic Example 1 and p-toluenesulfonic acid monohydrate (2 mg) in isopropanol (1 mL) were heated at 90° C. overnight under reflux. After cooling, chloroform-ether was added, and the resulting crystals were collected by filtration, washed with chloroform-ether and dried to give 24 mg of the desired product (yield 43%).

reactant | 1-(5-Hydroxy-3-methyl-1-(3,4-dimethylphenyl)-1H-pyrazol-4-yl)-ethanone | 0.123 mmol, 30 mg | OC1=C(C(=NN1C1=CC(=C(C=C1)C)C)C)C(C)=O | C14H16N2O2
reactant | 5-hydrazinocarbonyl-thiophene-2-carboxylic acid 2-propylamide | CC(C)NC(=O)C=1SC(=CC1)C(=O)NN | C9H13N3O2S
reactant | p-toluenesulfonic acid monohydrate | 2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 5-(N′-{1-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]-ethyl}hydrazinocarbonyl)-thiophene-2-carboxylic acid isopropylamide | 24 mg, yield 43% | C(C)(C)NC(=O)C=1SC(=CC1)C(=O)NNC(C)=C1C(=NN(C1=O)C1=CC(=C(C=C1)C)C)C | C23H27N5O3S
